US07282605B2
Methyl 2-allyloctanoate
A solution of 25.12 g (67.5 mmol) of N-isopropyloxycarbonyl-N-(2-allyloctanoyl)-1-(R)-phenylethylamine ((1R,2S):(1R,2R)=77:23) in 338 ml of THF was cooled to −10° C., 26.1 g (135 mmol) of NaOMe (28% solution in methanol) was added dropwise and, after completion of the addition, the mixture was further stirred for 45 minutes. The reaction was terminated by addition of 120 ml of 1 N hydrochloric acid, and the product was extracted with hexane (100 ml×2). The extract was dried over anhydrous sodium sulfate, and the solvent was distilled off to give 25.90 g of a crude product. This was purified on a silica gel column to give 12.32 g (92%, 54% ee) of the title compound.

reactant | N-isopropyloxycarbonyl-N-(2-allyloctanoyl)-1-(R)-phenylethylamine | 67.5 mmol, 25.12 g | C(C)(C)OC(=O)N(C(C(CCCCCC)CC=C)=O)[C@H](C)C1=CC=CC=C1 | C23H35NO3
reactant | NaOMe | 135 mmol, 26.1 g | C[O-].[Na+]
reactant | THF | 338 ml | C1CCOC1 | C4H8O
product | Methyl 2-allyloctanoate | C(C=C)C(C(=O)OC)CCCCCC | C12H22O2
